US04077978
A suspension of 8 g. of 5-chloro-2-[4-(1,3-dioxolan-2-yl)pentyl]-3-phenylisoindole-1-carboxylic acid ethyl ester in a mixture of 40 ml. of dioxane and 10 ml. of water is treated with 2 ml. of concentrated hydrochloric acid and then boiled at reflux for 3 hours. The solution obtained is concentrated to dryness under reduced pressure and the residue partitioned between water and methylene chloride. The organic phase is washed with a 2-N sodium carbonate solution and then with a saturated aqueous sodium chloride solution. After drying over sodium sulfate, the solvent is removed, and there is obtained 5-chloro-2-(4-oxopentyl)-3-phenylisoindole-1-carboxylic acid ethyl ester having a melting point of 93°-94° C. Crystallization from ether/hexane yields colorless crystals; melting point 94°-95° C.

reactant | 5-chloro-2-[4-(1,3-dioxolan-2-yl)pentyl]-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCC(C)C1OCCO1 | C25H28ClNO4
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-chloro-2-(4-oxopentyl)-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCC(C)=O | C22H22ClNO3
